Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Streptomycin / Citric Acid / 
Atenolol
 
Attending: ___.
 
Chief Complaint:
Hand cramping.
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ yo man with ischemic cardiomyopathy, HTN, A fib on coumadin, 
h/o gastritis who was admitted for anemia and guaiac positive 
stools.  Of note, his PMD in early ___ had noted worsening 
anemia and had stopped ASA and coumadin x 1 week and started 
omeprazole. Also for evaluation of this bili was checked and 
mildly elevated at 2.3, direct 0.9, hapto 111.  His hct remained 
stable with negative stool guaiacs at that time so asa and 
coumadin were restarted.  Of note, has also gone to his 
cardiologist who started torsemide (dose reduced 1 week ago).  
The pt initially presented to the ED with muscle spasms, cramps 
bilateral hands and lower extremities for the past week, worse 
at night but bothersome to the point that he has had difficulty 
driving due to pain. He states the pain is relieved by running 
it under warm water. He did not take pain meds for the pain and 
has never had anything like this before. He did not take the 
torsemide today, and has no muscle cramps today (currently pain 
free). He notes melena for the past few days at home, which is 
unusual, but no bright red blood in ostomy output, he denies 
abdominal pain, nausea, vomitting, constipation, diarrhea, cp, 
sob, palpitations, sob, cough, fevers, chills, dysuria, 
hematuria. He notes ___ edema for the past ___ weeks despite 
stable wieght (168) and bleeding from cracks in dry skin on his 
hands. 

In the ED: VS: 99.1 71 110/43 16 99% on RA.

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
-CAD s/p bare metal stent x2 in ___
-Hypertension  
-Ischemic cardiomyopathy Systolic dysfunction (EF 35%-40% ___  

-Dual chamber pacemaker 
-h/o VF s/p ICD for secondary prevention  
-Chronic atrial fibrillation  
-Rectal cancer s/p neoadjuvant chemotherapy, resection and 
adjuvant chemotherapy for positive LNs found at surgery  
-BPH  
-h/o stroke in ___ with residual R hand dysthesia  
-Cervical spondylosis  
-Sleep apnea, only uses CPAP intermittently  
-h/o gastritis ___ year ago
-insomnia, has been using chamomile tea and melatonin with 
minimal relief
 
Social History:
___
Family History:
Father died of an MI in his ___, Mother died of a PE in her ___, 
twin sister died of colitis age ___, no family h/o colon, 
breast, uterine, or ovarian CA  

 
Physical Exam:
VS: T 96.6 HR 72 BP 110/59 RR 19 Sat 100% RA
Gen: Well appearing elderly man in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: 7cm
Cardiovascular: regular rate and rhythm, normal s1, s2, III/VI 
HSM at apex, no rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, non tender, non distended, no heptosplenomegally, 
bowel sounds present, ostomy bag in place, draining dark stool
Extremities: 2+ PE to mid calf bilaterally, no cyanosis, 
clubbing, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent
Integument: Dry skin on hands with scattered fissurees, 
otherwise warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
CBC: 4.4 > 8.5/27.9 < 215 (baseline hct ___
Chem: 133 | 99 | 34 < 139
      5.4 | 24 | 1.5
Ca 9.1, Mg 2.5, Phos 3.5
INR 1.8
PTT 35
BNP 2825
ALT 35 AST 64 LD 352 ALK PHOS 121 TOT BILI 1.3 DIR BILI 0.6 
INDIR BIL 0.7

ECG: V paced (69), no acute st-t changes, unchanged from prior.

CT Chest/Abd: ___
1. Stable appearance of the liver, with a stable small enhancing 
focus in the left lobe, which may reflect a hemangioma, but is 
incompletely characterized.  No new lesion identified. 
2. Status post abdominoperineal resection of the rectum, with 
end-colostomy in the left lower quadrant, without evidence of 
recurrent disease. 
3. Stable perastomal hernia containing loops of small bowel 
without obstruction. 
4. Cholelithiasis. 

EGD ___: Erythema and erosion in the stomach body 
compatible with erosive gastritis. Erythema in the first part of 
the duodenum compatible with mild duodenitis. Polyp in the 
fundus. Otherwise normal EGD to third part of the duodenum.
 
Brief Hospital Course:
___ with h/o CHF p/w GI bleeding.   
.
Primary Diagnosis: 285.1 ANEMIA, ACUTE BLOOD LOSS  
Secondary Diagnosis: 578.9 BLEEDING, GASTROINTESTINAL NOS  
EGD demonstrated Angioectasia in the Distal duodenal bulb and 
stomach body with no active bleeding, but signs of recent 
bleeding.  ASA was held and INR was already below theraputic 
range at 1.7. No intervention was done to the angioectasias b/c 
of elevated INR. The patient's HCT fell to 25.8. He was given 1 
U RBC's with appropriate increase in HCT. He will return on 
___ to have an elective EGD with likley cauterization of the 
angioectasia with Dr. ___. INR to be drawn the ___ 
before the procedure. To continue to hold ASA and coumadin until 
further notice. PPI increased. 
.
Secondary Diagnosis: 414.01 CAD, NATIVE VESSEL  
BB continued. ASA held as above.
.
Secondary Diagnosis: 428.20 HEART FAILURE, (A3) CHRONIC SYSTOLIC 
 
Patient having cramps on torsemide, changed back to lasix 20 
bid. instructed to continue daily weights. Lytes in 1 week. 
.
Secondary Diagnosis: 401.1 HYPERTENSION, BENIGN  
on BB/ACEI
.
Secondary Diagnosis: 530.11 GASTROESOPHAGEAL REFLUX DISEASE 
(GERD)  
PPI as above.
.
Secondary Diagnosis: 585.3 CHRONIC KIDNEY DISEASE, STAGE III 
(___)  
stable
 
Medications on Admission:
MVI daily
ASA 81mg daily
Torsemide 20mg BID
Klor-Con 20mEQ daily
Omepraole 20mg daily
Toprol XL 25mg daily
Lisinopril 5mg daily
Amitryptiline 50mg qhs
coumadin: 1mg mwf, 2mg sstr
melatonin 2mg hs prn insomnia
 
Discharge Medications:
1. Outpatient Lab Work
INR prior to EGD with gastroenterology. to be run STAT for 
procedure.
2. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Amitriptyline 25 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
5. Furosemide 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 285.1 ANEMIA, ACUTE BLOOD LOSS  
Secondary Diagnosis: 427.31 ATRIAL FIBRILLATION  
Secondary Diagnosis: 414.01 CAD, NATIVE VESSEL  
Secondary Diagnosis: 578.9 BLEEDING, GASTROINTESTINAL NOS  
Secondary Diagnosis: 428.20 HEART FAILURE, (A3) CHRONIC SYSTOLIC 
 
Secondary Diagnosis: 401.1 HYPERTENSION, BENIGN  
Secondary Diagnosis: 530.11 GASTROESOPHAGEAL REFLUX DISEASE 
(GERD)  
Secondary Diagnosis: 585.3 CHRONIC KIDNEY DISEASE, STAGE III 
(___)  
Secondary Diagnosis: 153.9 MALIGNANT NEOPLASM, COLON  

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
As we discussed you were admitted with a bleed in your stomach 
or proximal small intestine. The bleeding has stopped, but we 
would recommend that you discontinue your aspirin and coumadin 
until you follow up with your outpaient doctors. We have made 
plans for you to see Dr. ___. You will need to arrive 1 
hour before the appointment time and eat nothing after midnight 
prior to arrival. You will also need to come that morning to the 
lab at ___ and have your blood work drawn prior to the 
procedure. Please provide them with the prescription for this 
included in your discharge paperwork. We have also increased the 
dose of your Prilosec(omeprazole) to a higher dose twice a day. 
Dr. ___ will let you know whether to continue at this dose 
or not.
********************
We have changed your torsemide back to lasix so please weigh 
yourself every morning, call your cardiologist if weight goes up 
more than 3 lbs. We recommend that you see your cardiologist or 
primary care doctor in the next week as this medication may need 
to be adjusted and you will have to have your blood electrolytes 
drawn with the next lasix dose.
We have also asked our staff to reschedule your appointment with 
Dr. ___. 
 
Followup Instructions:
___